US07871998B2
(4S)-3-[({[5,5-Dimethyl-2-(4-methylphenyl)-1,3-dioxan-2-yl]methyl}thio)acetyl]-4-phenyl-1,3-oxazolidin-2-one
({[5,5-Dimethyl-2-(4-methylphenyl)-1,3-dioxan-2-yl]methyl}thio)acetic acid (8.7 g, 28.0 mmol) was dissolved in dry CH2Cl2 (120 ml) and cooled to 0° C. N,N′-Dicyclohexylcarbodiimide (DCC, 6.35 g, 30.8 mmol) in 30 ml of CH2Cl2 and 4-(dimethylamino)pyridine (DMAP, 6.85 g, 56.1 mmol) were added. The mixture was stirred at 0° C. for 30 minutes. (S)-(+)-4-Phenyl-2-oxazolidinone (4.57 g, 28.0 mmol) was added and the mixture was stirred at room temperature for 19 h. The mixture was filtered, concentrated under reduced pressure and purified by flash-chromatography (hexane:EtOAc 5:1 then 4:1). This afforded 7.07 g (55%) of the title compound as a white solid. 1H-NMR (CDCl3, 200 MHz): δ 0.6 (s, 3H), 1.2 (s, 3H), 2.4 (s, 3H), 2.8 (s, 2H), 3.4 (s, 4H), 3.8 (s, 2H), 4.3 (dd, 1H), 4.7 (t, 1H), 5.4 (dd, 1H), 7.2-7.5 (m, 9H).

reactant | ({[5,5-Dimethyl-2-(4-methylphenyl)-1,3-dioxan-2-yl]methyl}thio)acetic acid | 28.0 mmol, 8.7 g | CC1(COC(OC1)(C1=CC=C(C=C1)C)CSCC(=O)O)C | C16H22O4S
reactant | N,N′-Dicyclohexylcarbodiimide | 30.8 mmol, 6.35 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (S)-(+)-4-Phenyl-2-oxazolidinone | 28.0 mmol, 4.57 g | C1(=CC=CC=C1)[C@@H]1NC(OC1)=O | C9H9NO2
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 56.1 mmol, 6.85 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (4S)-3-[({[5,5-Dimethyl-2-(4-methylphenyl)-1,3-dioxan-2-yl]methyl}thio)acetyl]-4-phenyl-1,3-oxazolidin-2-one | CC1(COC(OC1)(C1=CC=C(C=C1)C)CSCC(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)C | C25H29NO5S
